US07544697B2
1-Ethyl-5-methyl-1H-pyrazole-3-carbonitrile (2.98 g, 22.0 mmol) was treated with potassium acetate (4.93 g, 31.0 mmol) and bromine (3.87 g, 24.0 mmol) in glacial acetic acid (43 mL) according to the general method described in Part F of Examples 1-4. Methyl tert-butyl ether was used instead of dichloromethane in the extraction during the work-up. The organic layers were combined and concentrated under reduced pressure to yield 4-bromo-1-ethyl-5-methyl-1H-pyrazole-3-carbonitrile as a white solid.

reactant | 1-Ethyl-5-methyl-1H-pyrazole-3-carbonitrile | 22.0 mmol, 2.98 g | C(C)N1N=C(C=C1C)C#N | C7H9N3
reactant | potassium acetate | 31.0 mmol, 4.93 g | C(C)(=O)[O-].[K+]
reactant | bromine | 24.0 mmol, 3.87 g | BrBr | Br2
solvent | acetic acid | 43 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-1-ethyl-5-methyl-1H-pyrazole-3-carbonitrile | BrC=1C(=NN(C1C)CC)C#N | C7H8BrN3
